US04585774
40 Grams of o-carbamoyl-α-chloroacetanilide, 40 g of benzylpiperazine, 52.4 ml of triethylamine and 250 ml of acetonitrile were heated at 50° C. for 5 hours with stirring, and crystals formed were collected by filtration. The crystals collected were extracted with chloroform and 1 N-sodium hydroxide aqueous solution, the chloroform layer was washed with water, dried then chloroform was removed by distillation. To the residue obtained was added ethanol and insoluble material formed was collected by filtration. Then the insoluble material was suspended in ethanol and was added hydrochloric acid/ethanol to make the pH of the mixture to about 1, then the solvent was removed by distillation. The residue obtained was crystallized by adding acetone, and recrystallized from methanol to obtain 54 g of o-carbamoyl-α-(4-benzyl-1-piperazinyl)acetanilide dihydrochloride. Colorless powdery crystals. Melting point: 218.5°-219.5° C. (decomposed).

reactant | o-carbamoyl-α-chloroacetanilide | C(N)(=O)C1=C(NC(CCl)=O)C=CC=C1 | C9H9ClN2O2
reactant | benzylpiperazine | 40 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | triethylamine | 52.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | o-carbamoyl-α-(4-benzyl-1-piperazinyl)acetanilide dihydrochloride | 54 g | Cl.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)CC2=CC=CC=C2)=O)C=CC=C1 | InChI=1S/C20H24N4O2.2ClH/c21-20(26)17-8-4-5-9-18(17)22-19(25)15-24-12-10-23(11-13-24)14-16-6-2-1-3-7-16;;/h1-9H,10-15H2,(H2,21,26)(H,22,25);2*1H
